* Z:\mnt\design.r\spice\examples\1929-PG.asc
M§Q1 IN N004 N006 N006 FDS6680A
C1 N005 N006 .47µ
M§Q2 N006 N010 0 0 FDS6680A
D1 N001 N005 1N5818
L1 N006 N007 1µ
R1 N007 OUT 2m
D2 0 N006 1N5818
M§Q3 IN N014 N016 N016 FDS6680A
C2 N015 N016 .47µ
M§Q4 N016 N020 0 0 FDS6680A
L2 N016 N017 1µ
D3 0 N016 1N5818
C3 OUT 0 1000µ x2 Rser=10m
R2 N018 0 16K
R3 N019 N018 16K
R4 IN N003 3.3K
XU1 N011 N007 OUT N018 N009 N008 MP_01 N013 0 N019 0 OUT OUT N017 N003 N014 N016 N015 N020 0 N001 N002 N010 IN N005 N006 N004 LTC1929-PG
C4 N013 0 100p
C5 N012 0 1000p
R5 N013 N012 10K
C6 N011 0 250p
D4 N001 N015 1N5818
V1 IN 0 6
R6 N017 OUT 2m
C7 N001 0 10µ
Rload OUT 0 .5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
.lib LTC1929-PG.sub
.backanno
.end
