* Z:\mnt\design.r\spice\examples\1015.asc
V1 N001 0 5
V2 N004 0 PULSE(2 3 0 .5u .5u 0 1u)
XU1 N004 N002 N001 0 N003 N005 LT1015
R1 N001 N002 10K
R2 N002 0 10K
V3 N005 0 PULSE(0 5 0 5n 5n 5u 10u)
.tran 30u
.lib LTC1.lib
.backanno
.end
