* Z:\mnt\design.r\spice\examples\1052.asc
V1 +V 0 5
V2 -V 0 -5
XU1 N004 N007 +V 0 N006 LTC1052
J1 +V IN N002 2N5486
D1 N002 N003 1N4148
XU2 N003 +V -V NC_01 OUT LT1010
Q1 N003 N005 N008 0 2N2222
R3 -V N008 100
C1 0 N004 .1µ
R1 OUT N004 10Meg
C2 N007 N006 2000p
R2 N005 N006 10K
C3 0 N005 .01µ
R4 IN N009 10Meg
V3 N001 0 PULSE(-100m 100m 0 10n 10n 1u 2u)
R5 N009 N007 1K
C4 0 N009 .1µ
R6 IN N001 10K
C5 OUT IN 30p
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.jft
.tran 250u
* DC Stabilized FET Probe
.lib LTC.lib
.backanno
.end
