* Z:\mnt\design.r\spice\examples\1054.asc
V1 IN 0 10
C1 OUT 0 100µ
C2 N002 N005 100µ
Rload OUT 0 50
XU1 N001 N002 0 N005 OUT N004 N003 IN LT1054
.tran 10m startup
.lib LT1054.sub
.backanno
.end
