* Z:\mnt\design.r\spice\examples\1068.asc
V1 N012 0 5
V2 0 N011 5
R3 N006 IN 26.1K
R1 N003 N006 4.99K
R2 N008 N006 19.6K
R4 N001 N006 12.1K
R5 N002 N007 4.99K
R6 N002 N004 21.5K
R7 N002 N001 63.4K
R8 N002 N003 7.5K
R9 N005 N004 16.2K
R10 N014 N005 10.7K
R11 N016 N005 14.7K
R12 N018 N005 4.99K
R13 OUT N017 28.7K
R14 N019 N017 4.99K
R15 N018 N017 40.2K
R16 N014 N017 14.7K
R17 N013 N015 4.99K
R18 N009 N010 4.99K
R19 N010 0 7.5K
R20 N013 0 17.8K
V3 IN 0 AC 1
XU1 N006 N003 N008 N001 0 0 N012 0 N014 N016 N018 N005 N017 N019 OUT N015 N013 N011 N010 N009 N004 N007 N002 LTC1068 Fclk=1.28Meg
.ac oct 500 1K 100K
.lib LTC4.lib
.backanno
.end
