* Z:\mnt\design.r\spice\examples\1086.asc
R1 OUT N001 121
R2 N001 0 365
V1 IN 0 PWL(0 0 1 10) Rser=0.1
Rload OUT 0 10
C1 OUT 0 10µ
XU1 N001 OUT IN LT1086
.tran 1
.lib LT1083.lib
.backanno
.end
