* Z:\mnt\design.r\spice\examples\1100.asc
V1 +V 0 5
V3 IN 0 SINE(0 10m 10)
XU1 0 N001 0 -V +V IN N002 OUT LTC1100
C1 OUT N002 .01µ
V2 -V 0 -5
.tran .3
.lib LTC.lib
.backanno
.end
