* Z:\mnt\design.r\spice\examples\1105.asc
M§Q1 N002 P001 N013 N013 SPA11N60C3
R1 P001 N010 10
C1 N014 0 390p
R2 N012 N011 330
C2 N011 0 .1µ
C3 N012 0 .047µ
R3 N008 0 5.36K
R4 N007 N008 16.2K
D1 N003 N007 BAV21
C4 N003 0 1000p
R5 N004 N003 499
C5 N009 0 1µ
L1 IN N002 1.6m Rpar=1000K
L2 0 N004 55µ Rpar=100K
L3 0 N001 60µ Rpar=10K
D2 N001 OUT PDS760
C6 OUT 0 100µ
R6 N004 N006 100
V1 IN 0 175.5
C7 N005 0 22µ
D3 N006 N005 BAV21
R7 IN N005 220K
XU1 0 N013 N008 N012 N014 N005 N009 N010 LT1105
R8 N013 0 .15
R9 OUT 0 20
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1000m steady startup nodiscard
.model BAV21 D(Is=1e-14 Cjo=10p)
K1 L1 L2 L3 1
.lib LT1105.sub
.backanno
.end
