* Z:\mnt\design.r\spice\examples\1108.asc
V1 IN 0 2.8
C2 OUT 0 100µ Rser=0.02
D1 N001 OUT MBRS140
L1 IN N001 33µ Rser=0.02 Rpar=5000
R1 OUT N003 753K
R2 N003 0 250K
XU1 IN IN N001 0 0 N002 N004 N003 LT1108 top=1K bot=1T
Rload OUT 0 25
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
.lib LT1108.sub
.backanno
.end
