* Z:\mnt\design.r\spice\examples\1125.asc
V1 +V 0 15
V2 -V 0 -15
XU1 IN+ N007 +V -V N008 LT1124
XU2 N006 N002 +V -V OUT LT1124
XU3 IN- N003 +V -V N001 LT1124
R1 N001 N003 3.4K
R2 N003 N005 100
R3 N005 N007 100
R4 N007 N008 3.4K
XU4 N005 N004 +V -V N004 LT1124
R5 N002 N001 1K
R6 N006 N008 1K
R7 OUT N002 30K
R8 0 N006 30K
V3 IN- IN+ SINE(0 1m 100)
V4 IN+ 0 SINE(0 1m 10)
.tran .3
* Instrumentation Amplifier with Shield Driver
* Shield
.lib LTC.lib
.backanno
.end
