* Z:\mnt\design.r\spice\examples\1143.asc
C1 N013 0 300p
R1 N010 N009 1K
C2 N009 0 3300p
M§Q1 N003 N006 IN IN FDC638P
L1 N003 N004 27µ
R2 N004 +5 50m
R3 N011 N012 1K
C3 N012 0 3300p
C4 N014 0 300p
D1 0 N003 1N5818
Rload2 +5 0 10
M§Q2 N002 N005 IN IN FDC638P
L2 N002 N001 27µ
R5 N001 +3 50m
Rload1 +3 0 5
V1 IN 0 5.75
C5 +5 0 220µ Rser=.1 x2
XU1 N001 N007 0 N005 IN N014 N011 +5 N004 N008 0 N006 IN N013 N010 +3 LTC1143
D2 0 N002 1N5818
C6 N004 +5 1000p
C7 N001 +3 1000p
C8 +3 0 220µ Rser=.1 x2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
.lib LTC1143.sub
.backanno
.end
