* Z:\mnt\design.r\spice\examples\1153.asc
V1 N001 0 PULSE(0 5 0 1u 1u 5m 10m)
M§Q1 N005 N008 N010 N010 Si9936DY
R1 N002 N005 0.1
C1 N002 N004 0.01µ
R2 N005 N004 100K
V2 N002 0 PWL(0 5 1 16)
R3 N007 N006 51K
Rload N010 0 10
V3 N006 0 5
XU1 N001 N003 N007 0 N009 N008 N004 N002 LTC1153
C2 N003 0 0.22µ
R4 N010 N009 51K
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1 startup
.lib LTC1153.sub
.backanno
.end
