* Z:\mnt\design.r\spice\examples\1156.asc
XU1 0 N004 N001 N005 MP_01 MP_02 MP_03 MP_04 MP_05 MP_06 MP_07 MP_08 N002 N008 N002 N006 LTC1156
V1 N001 0 5
V2 N004 0 PULSE(0 5 0 100n 100n 2.5m 5m)
V3 N005 0 PULSE(0 5 0 100n 100n 2.5m 5m)
M§Q1 N003 N006 N007 N007 Si9936DY
R1 N001 N003 .03
C1 N001 N002 .1µ
R2 N003 N002 100K
M§Q2 N003 N008 N009 N009 Si9936DY
Rload1 0 N009 10
Rload2 0 N007 10
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20m startup
.lib LTC1156.sub
.backanno
.end
