* Z:\mnt\design.r\spice\examples\1163.asc
V1 N001 0 3.3
V2 N002 0 PULSE(0 3 0 100n 100n 2.5m 5m)
V3 N005 0 PULSE(0 3 0 100n 100n 2.5m 5m)
R1 N010 0 10
R2 N007 0 10
XU1 N002 N005 N008 0 N009 N006 N003 N001 LTC1163
V4 N008 0 PULSE(0 3 0 100n 100n 2.5m 5m)
M§Q1 N001 N003 N004 N004 Si4866DY
R3 N004 0 10
M§Q2 N001 N006 N007 N007 Si4866DY
M§Q3 N001 N009 N010 N010 Si4866DY
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20m startup
.lib LTC1163.sub
.backanno
.end
